US08217052B2
4-(3-Oxo-propyl)-tetrahydro-pyran-4-carboxylic acid methyl ester
4-But-3-enyl-tetrahydro-pyran-4-carboxylic acid methyl ester (6 g, 30 mmol) was dissolved in iPrOH (150 mL). To this was added a aqueous solution of NalO4 (14 g, 65.2 mmol, 2.18 equiv.) in water (150 mL), followed by addition of OsO4 (25 mg, crystals, in one portion) at rt. The solution was stirred with a mechanical stirrer at rt (water bath). After 30 min, milky cloudy product was formed. Stirring was continued for 4 h. TLC (1% MeOH in DCM, and 5% MeOH in DCM) did not detect the SM. An aliquot was taken and dissolved in CDCl3 to run NMR, there was no alkene peak in the sample. The reaction was judged to be complete. The reaction mixture was poured into ice water (200 mL) and EtOAc (200 mL). The two layers were separated and the aqueous layer was extracted with EtOAc (5×50 mL). More water was added to dissolve the solid resulting in a clear solution. The combined extracts were washed with brine, and concentrated to dryness to get a liquid. The liquid was subject a reduced distillation to remove isopropanol. The remaining liquid was purified on a 50-g silica gel column, eluted with 50% EtOAc in Heptane. Note: the product is not UV active. Anisaldehyde visualization was used. The product fractions were collected and concentrated to yield 5.62 g (94% yield) of the title compound as a liquid.

reactant | 4-But-3-enyl-tetrahydro-pyran-4-carboxylic acid methyl ester | 30 mmol, 6 g | COC(=O)C1(CCOCC1)CCC=C | C11H18O3
reactant | MeOH | CO | CH4O
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | iPrOH | 150 mL | CC(C)O | C3H8O
solvent | water | 150 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | OsO4 | 25 mg | O=[Os](=O)(=O)=O
product | 4-(3-Oxo-propyl)-tetrahydro-pyran-4-carboxylic acid methyl ester | 5.62 g, 94% yield | COC(=O)C1(CCOCC1)CCC=O | C10H16O4
